US07842688B2
e) N-(2-Bromo-5-methylphenyl)isobutyramide
Analogously to Example 18e, 12.20 g of 2-bromo-5-methylaniline are reacted with 7.77 ml of isobutyryl chloride. The title compound is obtained as a white solid. Rt=4.29.

reactant | 2-bromo-5-methylaniline | 12.20 g | BrC1=C(N)C=C(C=C1)C | C7H8BrN
reactant | isobutyryl chloride | 7.77 ml | C(C(C)C)(=O)Cl | C4H7ClO
product | N-(2-Bromo-5-methylphenyl)isobutyramide | BrC1=C(C=C(C=C1)C)NC(C(C)C)=O | C11H14BrNO
